US04381301
2.2 g of chloroacetyl chloride and 2 ml of triethylamine are simultaneously added dropwise to a boiling solution of 2.2 g of 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one in 30 ml of absolute dioxane in the course of 40 minutes, and the mixture is stirred for a further 3 hours. It is then allowed to cool and is filtered; the filtrate is concentrated to dryness; the residue is chromatographed over a silica gel column by means of a mixture of petroleum ether/ethyl acetate (1:1), and the product is recrystallized from toluene to yield 2.0 g of 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one (m. 220° C.).

reactant | chloroacetyl chloride | 2.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 2.2 g | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 2.0 g | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
